US09278944B2
To a solution of 4-bromo-1-methoxy-2-(4-methoxybutyl)benzene (523 mg) in tetrahydrofuran (10 mL) were added lithium chloride (326 mg), tetrakis(triphenylphosphine)palladium (0) (381 mg) and tri-n-butyltin-1-ethoxyvinyl 91.11 mL), and the mixture was heated to stir at 80° C. for 20 hours. The reaction solution was cooled to room temperature, and then thereto was added aqueous potassium fluoride solution, and the mixture was stirred for 30 minutes. The mixture was extracted with diethyl ether, and then thereto was added 10% hydrochloric acid, and the mixture was stirred for 1 hour. The organic layer was separated, dried over magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1→1/1) to give 1-[4-methoxy-3-(4-methoxybutyl)phenyl]ethanone [REx(24-1)] (195 mg) as a yellow oil.

reactant | 4-bromo-1-methoxy-2-(4-methoxybutyl)benzene | 523 mg | BrC1=CC(=C(C=C1)OC)CCCCOC | C12H17BrO2
reactant | lithium chloride | 326 mg | [Cl-].[Li+]
reactant | potassium fluoride | [F-].[K+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 381 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[4-methoxy-3-(4-methoxybutyl)phenyl]ethanone | 195 mg | COC1=C(C=C(C=C1)C(C)=O)CCCCOC | C14H20O3
